US07705018B2
A mixture of (1S)-1-(8-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine (0.090 g, 0.32 mmol) in n-butanol (3 mL) was treated with DIEA (0.11 mL, 0.64 mmol, 2.0 eq), followed with 4,5-dichloropyrimidin-2-amine (0.062 g, 0.38 mmol, 1.2 eq) at 100° C. for 8 h. The reaction mixture was concentrated and purified by column chromatography on a Redi-Sep™ column using 0 to 100% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 as eluent to provide 5-chloro-N4-((S)-1-(8-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)pyrimidine-2,4-diamine [PI3Kδ IC50=105 nM] as a white solid. 1H-NMR (DMSO-d6) δ ppm 8.65-8.76 (m, 1H), 8.53 (s, 1H), 8.11-8.20 (m, 1H), 8.07 (d, J=1.96 Hz, 1H), 7.91-8.00 (m, 2H), 7.86 (s, 1H), 7.62 (t, J=8.02 Hz, 1H), 7.51-7.58 (m, 1H), 6.03-6.25 (m, 1H), 1.38-1.63 (d, J=7.04, 3H), Mass Spectrum (ESI) m/e=412 (M+1).

reactant | (1S)-1-(8-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine | 0.32 mmol, 0.090 g | ClC=1C=CC=C2C=C(C(=NC12)C1=NC=CC=C1)[C@H](C)N | C16H14ClN3
reactant | DIEA | 0.64 mmol, 0.11 mL, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,5-dichloropyrimidin-2-amine | 0.38 mmol, 0.062 g, 1.2 eq | ClC1=NC(=NC=C1Cl)N | C4H3Cl2N3
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | 5-chloro-N4-((S)-1-(8-chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)N)N[C@@H](C)C=1C(=NC2=C(C=CC=C2C1)Cl)C1=NC=CC=C1 | C20H16Cl2N6
